US07449477B2
Add pyrrolidine (0.97 g, 13.67 mmol) to a solution of 4-chloro-2-fluoro-1-nitrobenzene (2 g, 11.40 mmol) in 8 mL anhydrous DMSO under N2. Stir the reaction mixture at 80° C. for 1 h. Cool the mixture, pour into ice-H2O and extract with Et2O (3×30 mL). Wash the organic phase with water and brine, dry over MgSO4, filter, and concentrate. Chromatograph the residue on silica gel using hex/EtOAc 9:1 as eluent to afford 2.29 g (89%) of 1-(5-chloro-2-nitro-phenyl)-pyrrolidine as a yellow solid. Add tin chloride (10 g, 44.15 mmol) to a solution of 1-(5-chloro-2-nitrophenyl)pyrrolidine (2 g, 8.83 mmol) in 25 mL of EtOH under nitrogen. Heat the reaction mixture at 70° C. for 3 h. After cooling, pour the mixture into ice-water, basify (pH=9) with NH4OH, and extract with EtOAc (3×100 mL). Dry the organic phase over MgSO4, concentrate, and purify the residue by silica gel chromatography using hex/EtOAc 8:2 as eluent to obtain 1.56 g (88%) of 1-(2-amino-5-chlorophenyl)pyrrolidine as an oil.

reactant | pyrrolidine | 13.67 mmol, 0.97 g | N1CCCC1 | C4H9N
reactant | 4-chloro-2-fluoro-1-nitrobenzene | 11.40 mmol, 2 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | 1-(5-chloro-2-nitro-phenyl)-pyrrolidine | 2.29 g, 89% | ClC=1C=CC(=C(C1)N1CCCC1)[N+](=O)[O-] | C10H11ClN2O2
